US08283353B2
3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of ethyl[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate (0.40 g) in tetrahydrofuran (4 mL) was added dropwise methylmagnesium bromide (1 M tetrahydrofuran solution, 0.71 mL) at 0° C., and the mixture was stirred for 30 min. To the reaction mixture were added ethyl acetate and then saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.26 g, 88%).

reactant | ethyl[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 0.40 g | C(C)OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C1=C(C=CC=C1)C#N)F)CCC)N=CC2)=O | C33H35FN4O4
reactant | methylmagnesium bromide | 1 M, 0.71 mL | C[Mg]Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3′-fluoro-4′-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.26 g, 88% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)(C)O)=O)C=2C(=CC=CC2)C#N | C33H37FN4O3
